* LM7805
*
* SPICE (Simulation Program with Integrated Circuit Emphasis)
* SUBCIRCUIT
*
* Connections: In Gnd Out
.SUBCKT LM7805 1 2 3
RBIAS 40 3 220
RADJ 2 40 660
D4 4 3 D_Z6V0
D3 5 6 D_Z6V3
D2 7 1 D_Z6V3
D1 3 8 D_Z6V3
QT26 1 10 9 Q_NPN 20.0
QT25 1 11 10 Q_NPN 2.0
QT24_2 13 12 5 Q_NPN 0.1
QT24 13 12 14 Q_NPN 0.1
QT23 17 16 15 Q_NPN 1.0
QT21 19 18 3 Q_NPN 0.1
QT19 21 3 20 Q_NPN 1.0
QT17 23 3 22 Q_NPN 0.1
QT13 1 25 24 Q_NPN 0.1
QT11 16 27 26 Q_NPN 0.1
QT7 30 29 28 Q_NPN 0.1
QT5 29 31 3 Q_NPN 0.1
QT3 33 31 32 Q_NPN 0.1
QT22_2 17 17 1 Q_PNP 1.0
QT22 16 17 1 Q_PNP 1.0
QT20 3 19 16 Q_PNP 0.1
QT18 21 21 16 Q_PNP 0.1
QT16 23 21 16 Q_PNP 0.1
QT15 3 23 25 Q_PNP 0.1
QT12 3 24 16 Q_PNP 0.1
QT9 27 30 34 Q_PNP 0.1
QT6 3 29 34 Q_PNP 0.1
QT14 25 33 35 Q_PNP 0.1
QT10 16 33 36 Q_PNP 0.1
QT8 34 33 37 Q_PNP 0.1
QT4 31 33 38 Q_PNP 0.1
QT2 33 33 39 Q_PNP 0.1
R27 4 40 50
R26 9 3 100M
R25 9 14 2
R24 5 14 160
R23 7 6 18K
R22 10 3 160
R21 12 13 400
R20 18 13 13K
R19 16 11 370
R18 15 10 130
R17 16 12 12K
C3 19 18 5P
R16 16 19 6.7K
R15 20 22 2.4K
R14 22 4 12K
C2 23 4 30P
C1 23 3 30P
R13 24 3 5.1K
R12 26 3 72
R11 27 3 5.8K
R10 28 3 4.1K
R9 32 3 180
R8 34 30 12.4K
R7 31 29 130
R6 8 31 100K
R5 1 35 5.6K
R4 1 36 82
R3 1 37 190
R2 1 38 310
R1 1 39 310
JT1 1 3 8 J_N
.MODEL D_Z6V0 D(IS=10F N=1.04 BV=6.0 IBV=1M CJO=1P TT=10p)
.MODEL D_Z6V3 D(IS=10F N=1.04 BV=6.3 IBV=1M CJO=1P TT=10p)
.MODEL Q_NPN NPN(IS=10F NF=1.04 NR=1.04 BF=100 CJC=1P CJE=2P TF=10P TR=1N VAF=90)
.MODEL Q_PNP PNP(IS=10F NF=1.04 NR=1.04 BF=50 CJC=1P CJE=2P TF=10P TR=1N VAF=45)
.MODEL J_N NJF(VTO=-7)
.ENDS LM7805
